US06960594B2
Compound XXIV: N,N′-Bis-(Boc)-N″-(2-Amino-ethyl)-guanidine.
With continued reference to Scheme J, a solution of the N,N′-bis-(Boc)-1H-Pyrazole-1-carboxamidine (2 g, 6.45 mmol) in THF (50 ml) was added dropwise to ethylene diamine (4 ml, 59.6 mmol) in THF (100 ml). After 30 min of mixing at room temperature solvent was evaporated then toluene (100 ml) was added and evaporated in order to remove remaining traces of the ethylene diamine. The resulting product (Compound XXIV) was treated immediately according to scheme K since it decomposes at room temperature. 1H NMR (CDCl3, 400 MHz) δ 1.40-1.61 (m, 18H), 2.87-2.90 (t, 2H,), 3.47-3.50 (m, 2H), 6.31-6.34 (t, 0.61H), 7.61-7.62 (d, 1H), 8.45-8.66 (broad s).

reactant | N,N′-bis-(Boc)-1H-Pyrazole-1-carboxamidine | 6.45 mmol, 2 g | C(=O)(OC(C)(C)C)NC(=NC(=O)OC(C)(C)C)N1N=CC=C1 | C14H22N4O4
reactant | ethylene diamine | 59.6 mmol, 4 ml | C(CN)N | C2H8N2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | N,N′-Bis-(Boc)-N″-(2-Amino-ethyl)-guanidine | C(=O)(OC(C)(C)C)NC(=NCCN)NC(=O)OC(C)(C)C | C13H26N4O4
